US05885999
b) t-Butyl (1-t-Butoxycarbonylpiperidin-4-yl)phenylcarbamate
t-Butyl (1-t-butoxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)phenylcarbamate (2.5 g) was dissolved in ethanol, palladium on carbon (10%) was added and the mixture was shaken under hydrogen (50 psi.) for 3 h. The mixture was filtered through Hyflo and the solvent was evaporated under reduced pressure. The residue was purified by MPLC on silica gel, eluting with EtOAc/Hexane (5:95) to give the title compound as a clear oil (2.44 g), δH (CDCl3) 1.51 (9H, s), 1.55 (9H, s), 1.69 (2H, m), 1.79 (2H, m), 2.77 (3H, m), 4.24 (2H, m), 6.18 (1H, br s), 7.12-7.18 (3H, m), 7.52 (1H, m). m/e (CI+) 377 (MH+).

reactant | t-Butyl (1-t-butoxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)phenylcarbamate | 2.5 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)N(C(OC(C)(C)C)=O)C1=CC=CC=C1 | C21H30N2O4
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | t-Butyl (1-t-Butoxycarbonylpiperidin-4-yl)phenylcarbamate | 2.44 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C(OC(C)(C)C)=O)C1=CC=CC=C1 | C21H32N2O4
